US06372787B1
A solution of 6.12 g of 1-(4-chlorophenyl)-propane-1,2-dione-1-(O-methyloxime) in 20 ml of ethanol is mixed with 4 ml of hydrazine hydrate. After stirring for 21 hours at room temperature, 80 ml of hexane are added. The precipitated crystals are filtered off, washed with a little hexane and dried. In this way, 4.5 g of 1-(4-chlorophenyl)-2-hydrazono-propan-1-one O-methyloxime are obtained as white crystals having a melting point of 118-119° C. A solution of 3.06 g of the above substance and 3.0 g of (2-formylphenyl)-methoxyimino-acetic acid methyl ester (EP 621277) in 30 ml of pyridine is stirred for 18 hours at 90° C. After cooling, the reaction solution is poured onto ice water and the precipitated oil is extracted with ethyl acetate. Purification takes place with ethyl acetate/hexane (1:9) on silica gel, and the title compound is obtained as a viscous, yellow oil, which crystallises after some time. (melting point 104-105° C.).

reactant | 1-(4-chlorophenyl)-propane-1,2-dione-1-(O-methyloxime) | 6.12 g | CON=C(C(C)=O)C1=CC=C(C=C1)Cl | C10H10ClNO2
reactant | hydrazine hydrate | 4 ml | O.NN
reactant | hexane | 80 ml | CCCCCC | C6H14
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1-(4-chlorophenyl)-2-hydrazono-propan-1-one O-methyloxime | 4.5 g | CON=C(C(C)=NN)C1=CC=C(C=C1)Cl | C10H12ClN3O
